data/mechanism_extracts/OrgChemFront/10.1039_d3qo00692a.json
{"doi": "10.1039_d3qo00692a", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical four-component aminochlorination of alkenes/dienes using benzimidazole as a redox modulator to generate an in situ N-chlorobenzimidazole chlorinating agent", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Anodic oxidation of Cl- to Cl radical and concurrent PCET oxidation of benzimidazole 1a to an N-centered radical; the two radicals couple to give N-chlorobenzimidazole (INT-1), the active ionic chlorinating mediator. Cathode reduces HFIP/H+ to H2.", "key_intermediates": [{"name": "chlorine radical (C)", "smiles": "[Cl]", "role": "transient"}, {"name": "N-centered benzimidazolyl radical (D) from PCET oxidation of 1a", "smiles": null, "role": "transient"}, {"name": "N-chlorobenzimidazole (INT-1), slow-releasing Cl+ mediator", "smiles": null, "role": "reactive"}, {"name": "chloriranium/chloronium ion (E) from styrene + INT-1", "smiles": null, "role": "reactive"}, {"name": "nitrilium ion (F) from MeCN attack on E (Ritter-type)", "smiles": null, "role": "reactive"}, {"name": "HFIP alkoxide (B) generated at cathode", "smiles": "[O-]C(C(F)(F)F)C(F)(F)F", "role": "reactive"}], "electron_flow": "At the anode, Cl- is oxidized by SET to Cl radical while benzimidazole 1a is oxidized by PCET to an N-radical; their cross-coupling (or Cl radical dimerization + coupling with 1a, path B) furnishes ionic N-chlorobenzimidazole INT-1. INT-1 transfers Cl+ to styrene giving a chloriranium ion, which is opened by MeCN (Ritter) to a nitrilium that is trapped by a second benzimidazole 1a to yield product 3a; protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Yield of 3a eroded to 22%"}, {"name": "triethyl phosphite P(OEt)3", "smiles": "P(OCC)(OCC)OCC", "purpose": "radical_trap", "observation": "Yield dropped to 20%"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield reduced to 35%"}, {"name": "alpha-phenylsulfonyl acrylate", "smiles": "C(=C)(C(=O)OCC)S(=O)(=O)c1ccccc1", "purpose": "radical_trap", "observation": "Yield 59%; partial suppression"}, {"name": "N,N-diallyl tosylamide (8)", "smiles": "C=CCN(Cc=C)S(=O)(=O)c1ccc(C)cc1", "purpose": "radical_clock", "observation": "No radical cyclization product observed; linear aminochlorinated product 9 obtained (39%)"}, {"name": "vinylcyclopropane dibenzyl malonate (10)", "smiles": null, "purpose": "radical_clock", "observation": "No ring-opening product observed; cyclopropane retained in product 11 (49%)"}, {"name": "cyclic voltammetry of MgCl2, 1a, styrene 2a, 4-methoxystyrene", "smiles": null, "purpose": "redox_probe", "observation": "Cl- and 1a oxidize earlier (~1.0 V) than styrene; failed substrate 4-methoxystyrene overlaps with Cl-/1a oxidation, indicating Cl- and 1a oxidation initiate the reaction"}, {"name": "anode potential monitoring", "smiles": null, "purpose": "redox_probe", "observation": "Anode held below styrene oxidation potential (1.68 V) for first 2 h, confirming alkene is not directly oxidized"}, {"name": "INT-1 as substrate", "smiles": null, "purpose": "intermediate_trap", "observation": "Preliminary reaction with isolated INT-1 supports its intermediacy and Ritter-type ionic pathway"}], "evidence_types_used": ["cyclic_voltammetry", "radical_clock", "intermediate_trap_BHT", "intermediate_trap_other", "isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "strong", "notes": "Authors favor path A (direct cross-coupling of Cl radical C with N-radical D to give INT-1); an alternative path B invokes dimerization of Cl radical to Cl2 followed by reaction with 1a to give the same INT-1. Radical scavengers attenuate but do not fully shut down the reaction, and radical clocks show no cyclization/ring-opening, indicating radicals are formed but rapidly converted to an ionic (Ritter-type) chlorination pathway via N-chlorobenzimidazole."}
